US05399580
(±)-4,5-Dichloro-N-(2-cyclopenten-1-yl)-2-nitroaniline
3-Aminocyclopentene hydrochloride (R. Vince and S. Daluge, J. Med. Chem. 1974, 17,578) (5.10 g, 42.8 mmol), 1,2,4-trichloro-5-nitrobenzene (Aldrich, 10.0 g, 42.8 mmol), and potassium carbonate (98%, Aldrich, 15.00 g, 107 mmol) were refluxed in t-butyl alcohol (100 mL) under nitrogen for 24 hours. Volatiles were evaporated in vacuo and the residue chromatographed on silica gel. Title compound was eluted with 20-30% chloroform-hexanes as an orange powder (5.14 g, 44%), m.p. 85°-86° C.; 1H-NMR(DMSO-d6) δ: 8.27 (s, 1, aromatic CH), 7.88 (d, J=7.3 Hz, 1, NH), 7.48 (s, 1, aromatic CH), 6.2-6.0 (m, 1, =CH), 6.0-5.8 (m, 1, =CH), 5.0- 4.7 (m, 1, NCH), 2.6-2.2 (m overlapping solvent, 3 CH), 1.8-1.5 (m, 1, 1/2CH2); mass spectrum(CI): 273 (M+1).

reactant | 3-Aminocyclopentene hydrochloride | 42.8 mmol, 5.10 g | Cl.NC1C=CCC1
reactant | 1,2,4-trichloro-5-nitrobenzene | 42.8 mmol, 10.0 g | ClC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)Cl | C6H2Cl3NO2
reactant | potassium carbonate | 107 mmol, 15.00 g | C([O-])([O-])=O.[K+].[K+]
solvent | t-butyl alcohol | 100 mL | C(C)(C)(C)O | C4H10O
product | (±)-4,5-Dichloro-N-(2-cyclopenten-1-yl)-2-nitroaniline | ClC1=CC(=C(NC2C=CCC2)C=C1Cl)[N+](=O)[O-] | C11H10Cl2N2O2
